US07459451B2
To a stirred solution of ethyl (2E)-3-[1-ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]acrylate (30 mg) in EtOH (2 ml) was added 1N aqueous NaOH (0.16 ml) and the mixture was stirred at 40° C. for 1 hour. After cooling, the reaction mixture was acidified to pH3-4 by adding 1N HCl (0.16 ml). The mixture was diluted with brine and extracted with CHCl3. The organic layer was dried over anhydrous MgSO4 and concentrated in vacuo. The residue was purified by preparative thin layer chromatography eluting with a mixture of MeOH and CHCl3 (1:10). The residue was recrystallized from EtOAc-n-hexane to give (2E)-3-[1-ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]acrylic acid (15 mg) as a colorless crystal.

reactant | ethyl (2E)-3-[1-ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]acrylate | 30 mg | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)/C=C/C(=O)OCC)COC | C21H24N4O3
reactant | NaOH | 1N, 0.16 ml | [OH-].[Na+]
reactant | HCl | 1N, 0.16 ml | Cl | ClH
solvent | EtOH | 2 ml | CCO | C2H6O
solvent | brine | [Cl-].[Na+].O
product | (2E)-3-[1-ethyl-6-(methoxymethyl)-4-(5-methyl-3-pyridyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]acrylic acid | 15 mg | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)/C=C/C(=O)O)COC | C19H20N4O3
